US04305951
3-Isopropyl-5-(2-hydroxy-styryl)-isoxazole
Using the method described in Example I, 32 g (0.12 mole) of diethyl (3-isopropyl-isoxazol-5-yl)methanephosphonate and 22 g (0.12 mole) of o-(1-methoxy-ethoxy)-benzaldehyde are reacted and the product is recrystallized from toluene. 20 g (73% of theory) of colorless crystals, of melting point 129°-133° C., are obtained.

reactant | diethyl (3-isopropyl-isoxazol-5-yl)methanephosphonate | 0.12 mole, 32 g | C(C)(C)C1=NOC(=C1)CP(OCC)(=O)OCC | C11H20NO4P
reactant | o-(1-methoxy-ethoxy)-benzaldehyde | 0.12 mole, 22 g | COC(C)OC1=C(C=O)C=CC=C1 | C10H12O3
product | 3-Isopropyl-5-(2-hydroxy-styryl)-isoxazole | C(C)(C)C1=NOC(=C1)C=CC1=C(C=CC=C1)O | C14H15NO2
